US08609656B2
1-(9-{4-[3-(4-Chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-yl)-3-cyclohexylurea (Table 1, Compound No. 120)
The title compound can be synthesized from 1-[4-(6-aminopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea hydrochloride and cyclohexyl isocyanate by using the same techniques as in Example 119.

reactant | 1-[4-(6-aminopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea hydrochloride | Cl.NC1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F
reactant | cyclohexyl isocyanate | C1(CCCCC1)N=C=O | C7H11NO
product | 1-(9-{4-[3-(4-Chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-yl)-3-cyclohexylurea | ClC1=C(C=C(C=C1)NC(NC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1)NC(=O)NC1CCCCC1)=O)C(F)(F)F | C26H24ClF3N8O2
